US09326973B2
A solution of methyl 2-methoxypropionate (177 mg, 1.5 mmol) in THF (1 mL) was added to a solution of LDA prepared from diisopropylamine (0.212 mL, 1.50 mmol) and butyllithium (0.60 mL, 1.50 mmol) in THF (2 mL) at −78° C. under nitrogen. The mixture was gradually allowed to warm to −20° C. over 1 h, re-cooled to −78° C. and then a solution of tert-butylchlorodimethylsilane (233 mg, 1.50 mmol) in THF (1 mL) was added. The mixture was allowed to warm to rt over 2 h and stirred overnight. The reaction was quenched with satd. NaHCO3 (5 mL), diluted with DCM (10 mL). The organic layer was separated, washed with water, brine and dried (MgSO4). Evaporation of solvents afforded tert-butyl((1,2-dimethoxyprop-1-en-1-yl)oxy)dimethylsilane as a clear oil and used in the next step without further purification.

reactant | methyl 2-methoxypropionate | 1.5 mmol, 177 mg | COC(C(=O)OC)C | C5H10O3
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | diisopropylamine | 1.50 mmol, 0.212 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.50 mmol, 0.60 mL | C(CCC)[Li]
reactant | tert-butylchlorodimethylsilane | 1.50 mmol, 233 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | tert-butyl((1,2-dimethoxyprop-1-en-1-yl)oxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OC(=C(C)OC)OC | C11H24O3Si
